US06306947B1
In the dropping tank of a reaction vessel (tank) equipped with a stirrer, a thermometer, a nitrogen-sealing tube, a condenser and a dropping tank were placed 8.0 parts of MMA, 15.0 parts of BA, 1.0 part of AA, 1.0 part of 2-ethylhexyl acrylate (referred to here-inafter as EHA), 10.0 parts of acrylonitrile (referred to hereinafter as AN), 5.0 parts of HEMA, 5.0 parts of DAAA, 1.0 part of AIBN, 25 parts of MEK and 25 parts of IPA and then uniformly mixed. Separately, in the reaction tank were placed 20.0 parts of PA-8, 8.0 parts of MMA, 15.0 parts of BA, 1.0 part of AA, 1.0 part of EHA, 10.0 parts of AN, 5.0 parts of HEMA, 5.0 parts of DAAA, 20 parts of MEK and 20 parts of IPA and then uniformly mixed. Subsequently, the reaction tank was heated to 75° C. and the liquid mixture in the dropping tank was dropped into the reaction tank over 5 hours. Thereafter, the resulting mixture was further subjected to reaction at the same temperature for 4 hours. Thereafter, 2.8 parts of TEA was added to the reaction mixture to sufficiently neutralize the same and then aqueous hydrazide consisting of 148 parts of distilled water and 4.7 parts of glutaric acid dihydrazide (referred to hereinafter as GDH) was added thereto to emulsify the reaction mixture. Thereafter, the MEK and the IPA present in the system were removed at 60° C. at 100 Torr to obtain an aqueous emulsion of a self-emulsifiable acryl-urethane copolymer having a solid content of 39.9% (the emulsion is referred to hereinafter as EA-11).

reactant | 2-ethylhexyl acrylate | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | HEMA | CC(=C)C(=O)OCCO | C6H10O3
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | PA-8 | C1CCN(CC1)CC2CC(=O)NN=C2C3=CC=C(C=C3)Cl.Cl
reactant | glutaric acid dihydrazide | C(CCCC(=O)NN)(=O)NN | C5H12N4O2
solvent | water | O | H2O
solvent | IPA | CC(C)O | C3H8O
solvent | MEK | CCC(=O)C | C4H8O
product | acryl-urethane | C(=O)(C=C)NC(=O)OCC | C6H9NO3
